2106-02-04 07:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Complained of same chest pain as previous but EKG unchanged so managed
   w/ PO hydromorphone
   -No pulsus this morning
   Allergies:
   Penicillins Hives;
   Aspirin Hives;
   Motrin (Oral) (Ibuprofen) Hives;
   Tylenol (Oral) (DmHb/Pseudoephed/Acetamin/Cp)
   Hives;
   Codeine Hives;
   Plavix (Oral) (Clopidogrel Bisulfate) Hives;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen) Shortness of br
   Zofran (Oral) (Ondansetron Hcl) Hives;
   Morphine Shortness of br
   Optiray 320 (Intraven) (Ioversol) Hives;
   Visipaque (Injection) (Iodixanol) Hives;
   Tramadol Unknown;
   Ketorolac Unknown;
   More allergies, please see POE for details
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Edema
   Flowsheet Data as of  [**2106-2-4**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 77 (77 - 104) bpm
   BP: 119/51(67) {119/48(53) - 171/78(100)} mmHg
   RR: 15 (12 - 23) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    459 mL
                                                                     76 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                    259 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  1,860 mL
                                                                     95 mL
   Urine:
                                                                  1,450 mL
   NG:
   Stool:
   Drains:
   95 mL
   Balance:
                                                                 -1,401 mL
                                                                    -19 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), Friction rub heard earlier
   now not as prominent
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, time, Movement: Not assessed,
   Tone: Normal
   Labs / Radiology
   463 K/uL
   7.9 g/dL
   161 mg/dL
   2.2 mg/dL
   25 mEq/L
   4.0 mEq/L
   38 mg/dL
   106 mEq/L
   140 mEq/L
   24.5 %
   9.6 K/uL
        [image002.jpg]
                            [**2106-2-4**]  05:00 AM
                            [**2106-2-4**]  05:30 AM
   WBC
   9.6
   Hct
   24.5
   Plt
   463
   Cr
   2.2
   Glucose
   161
   Other labs: PT / PTT / INR:12.9/20.5/1.1, Ca++:8.1 mg/dL, Mg++:2.2
   mg/dL, PO4:4.4 mg/dL
   Imaging: [**2-3**] Echo: There is mild symmetric left ventricular
   hypertrophy. The left ventricular cavity size is normal. Overall left
   ventricular systolic function is normal (LVEF>55%). Right ventricular
   chamber size and free wall motion are normal. The aortic valve leaflets
   (3) are mildly thickened. There is no aortic valve stenosis. No aortic
   regurgitation is seen. The mitral valve leaflets are mildly thickened.
   The tricuspid valve leaflets are mildly thickened. There is a small to
   moderate sized pericardial effusion. There is right ventricular
   diastolic collapse, consistent with impaired fillling/tamponade
   physiology.
   Compared with the prior study (images reviewed) of [**2106-2-1**], right
   ventricular collapse is now present.
   [**2-3**] Cardiac cath: 1. Pericardial tamponade with improvement in
   pericardial pressure after
   removal of 410cc pericardial fluid.
   2. Moderate pulmonary arterial hypertension.
   3. Elevated right sided filling pressures.
   4. Elevated pulmonary capillary wedge pressure.
   Microbiology: [**2-3**] Pericardial fluid: GRAM STAIN (Final [**2106-2-3**]):  NO
   POLYMORPHONUCLEAR LEUKOCYTES SEEN. NO MICROORGANISMS SEEN.
   Assessment and Plan
   41 year old female with strange and complicated past medical history of
   VTE, CAD, and dCHF and multiple vascular risk factors presenting with
   recurrence of her baseline recurring chest pain with development of
   tamponade physiology now s/p pericardial drain.
   .
   # Pericarditis/ Tamponade: Ultimate etiology of pericarditis and
   effusion unclear.  The patient's elevated JVP with respiratory
   variation and tamponade with minimal effusion are both concerning for
   constrictive pericarditis.  Lack of pressure tracings from actual
   procedure make constrictive physiology rather hard to confirm. Patient
   may have recurrent pericarditis causing her pain complaints though
   previous echos have never shown similar findings.  Work up underway.
   -Pericardial drain to gravity, will remove as output trails off
   -Await results of [**Last Name (LF) **], [**First Name3 (LF) 124**] send inflammatory markers ESR and CRP for
   better idea of possibility of chronic inflammatory state
   -Repeat TTE today to evaluate for reaccumulation
   -Regular pulsus checks
   -Initiate colchicine for pericarditis, can c/w PRN PO hydromorphone
   -Keep drain in place until no further output
   .
   # Pump: Patient has an acute exacerbation of her diastolic heart
   failure and has previously had chest pain in the context of heart
   failure exacerbation.  Hypervolemia is improving
   -continue BB, no ASA due to allergy
   -Consider restarting home PO furosemide if patient remains stable and
   hold off on aggressive further diuresis for now
   .
   # Rhythm: Patient in NSR, continue to monitor on telemetry
   .
   # Coronaries: Patient has other clear etiologies for chest pain and
   flat troponins so minimal suspicion for ACS.
   -Continue BB, no ASA due to allergy
   -Monitor on telemetry
   -If oxygen sats decrease or becomes tachycardic/tachypnic, consider
   re-evaluating for PE
   .
   # History of venous thomboembolic disease: Previous work up for
   hypercoagulable state has been unremarkable.  Likely needs full work-up
   but patient has not kept outpatient follow up appointments.  MRI
   negative for central pulmonary lesions/thromboses. Also would be
   cautious with anticoagulation given blood in pericardial fluid and fear
   of hemorrhagic conversion.
   -Hold heparin drip
   -Likely restart coumadin when patient stable
   .
   # [**Last Name (un) **] on CKD: Creatinine elevated to 2.2 (baseline ~1.2). Likely
   hemodynamic in the context of tamponade and other issues.  Will trend,
   hold fluids for now especially as tamponade now resolved. U/A
   unrevealing, other than [**12-25**] RBCs
   -Monitor BUN/creat
   -Avoid nephrotoxins
   -Urine lytes
   .
   # Hyperlipidemia: Continue home statin.
   .
   # Gastritis: Continue Pantoprazole
   .
   # Anemia: Hct low but stable. Low-normal MCV. Has reportedly had guaiac
   positive stools
   -Continue PPI
   -Trend Hct, if continues to fall may need endoscopy
   .
   # HTN: Well controlled, continue home regimen
   .
   # Presumed depression/anxiety: Continue home citalopram and clonazepam
   doses.
   .
   # Diet: Cardiac/low salt diet
   # PPx: SC heparin while not therapeutic on anticoag, bowel reg
   # Code: FULL
   # Contact/HCP: [**Name (NI) 8576**] [**Name (NI) 10770**] [**Telephone/Fax (1) 10771**]
   # Dispo: Back to medicine after improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2106-2-3**] 04:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Agree with above plan. Will start colchicine.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3876**], MD
   on:[**2106-2-4**] 10:23 ------

2106-02-05 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - repeat echo with pericardial drain in place: trivial pericardial
   effusion, LVEF > 55%.  No signs tamponade
   - pulled pericardial drain
   - had episode pleuritic chest discomfort following discontinuation of
   drain -> HR in 80s, JVD more prominent but no kussmal sign, EKG and CXR
   unchanged   Rx with dilaudid 0.5 x 2
   Allergies:
   Penicillins
   Hives;
   Aspirin
   Hives;
   Motrin (Oral) (Ibuprofen)
   Hives;
   Tylenol (Oral) (Dm Hb/Pseudoephed/Acetamin/Cp)
   Hives;
   Codeine
   Hives;
   Plavix (Oral) (Clopidogrel Bisulfate)
   Hives;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Shortness of br
   Zofran (Oral) (Ondansetron Hcl)
   Hives;
   Morphine
   Shortness of br
   Optiray 320 (Intraven) (Ioversol)
   Hives;
   Visipaque (Injection) (Iodixanol)
   Hives;
   Tramadol
   Unknown;
   Ketorolac
   Unknown;
   More allergies, please see POE for details
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-2-4**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-2-5**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 35.9
C (96.7
   HR: 70 (65 - 92) bpm
   BP: 128/69(83) {108/43(61) - 157/73(89)} mmHg
   RR: 13 (10 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,100 mL
                  PO:
                                                                    990 mL
                  TF:
   IVF:
                                                                    110 mL
   Blood products:
   Total out:
                                                                  1,265 mL
                                                                    600 mL
   Urine:
                                                                  1,150 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
                                                                    115 mL
   Balance:
                                                                   -165 mL
                                                                   -600 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic; JVP at 10cm with prominent
   y-descent
   Cardiovascular: (S1: Normal), (S2: Normal), Friction rub heard earlier
   now not as prominent
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:bibasilar
   crackles)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Obese
   Extremities: Right lower extremity edema to knee: 2+, Left lower
   extremity edema to knee: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, time, Movement: Not assessed,
   Tone: Normal
   Labs / Radiology
   463 K/uL
   7.9 g/dL
   161 mg/dL
   2.2 mg/dL
   25 mEq/L
   4.0 mEq/L
   38 mg/dL
   106 mEq/L
   140 mEq/L
   24.5 %
   9.6 K/uL
        [image002.jpg]
                            [**2106-2-4**]  05:00 AM
                            [**2106-2-4**]  05:30 AM
   WBC
   9.6
   Hct
   24.5
   Plt
   463
   Cr
   2.2
   Glucose
   161
   Other labs: PT / PTT / INR:12.9/20.5/1.1, Ca++:8.1 mg/dL, Mg++:2.2
   mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   41 year old female with strange and complicated past medical history of
   VTE, CAD, and dCHF and multiple vascular risk factors presenting with
   recurrence of her baseline recurring chest pain with development of
   tamponade physiology now s/p pericardial drain.
   .
   # Pericarditis/ Tamponade: Ultimate etiology of pericarditis and
   effusion unclear.  The patient's elevated JVP with respiratory
   variation and tamponade with minimal effusion are both concerning for
   constrictive pericarditis.  Lack of pressure tracings from actual
   procedure make constrictive physiology rather hard to confirm. Patient
   may have recurrent pericarditis causing her pain complaints though
   previous echos have never shown similar findings.  Work up underway
   with elevation of CRP/ ESR.  Now s/p removal of pericardial drain with
   no tamponade physiology
    -Await results of [**Doctor First Name **]
   -Repeat TTE today to evaluate for reaccumulation
   -Regular pulsus checks
   -Initiate colchicine for pericarditis, can c/w PRN PO hydromorphone
   - repeat Echo to f/u pericardial effusion
   .
   # Pump: Patient has an acute exacerbation of her diastolic heart
   failure and has previously had chest pain in the context of heart
   failure exacerbation.  Hypervolemia is improving
   -continue BB, no ASA due to allergy
   -Consider restarting home PO furosemide if patient remains stable and
   hold off on aggressive further diuresis for now
   .
   # Rhythm: Patient in NSR, continue to monitor on telemetry
   .
   # Coronaries: Patient has other clear etiologies for chest pain and
   flat troponins so minimal suspicion for ACS.
   -Continue BB, no ASA due to allergy
   -Monitor on telemetry
   -If oxygen sats decrease or becomes tachycardic/tachypnic, consider
   re-evaluating for PE
   .
   # History of venous thomboembolic disease: Previous work up for
   hypercoagulable state has been unremarkable.  Likely needs full work-up
   but patient has not kept outpatient follow up appointments.  MRI
   negative for central pulmonary lesions/thromboses. Also would be
   cautious with anticoagulation given blood in pericardial fluid and fear
   of hemorrhagic conversion.
   -Hold heparin drip
   -Likely restart coumadin when patient stable
   .
   # [**Last Name (un) **] on CKD: Creatinine elevated to 2.2 (baseline ~1.2). Likely
   hemodynamic in the context of tamponade and other issues.  Will trend,
   hold fluids for now especially as tamponade now resolved. U/A
   unrevealing, other than [**12-25**] RBCs
   -Monitor BUN/creat
   -Avoid nephrotoxins
   -Urine lytes
   .
   # Hyperlipidemia: Continue home statin.
   .
   # Gastritis: Continue Pantoprazole
   .
   # Anemia: Hct low but stable. Low-normal MCV. Has reportedly had guaiac
   positive stools
   -Continue PPI
   -Trend Hct, if continues to fall may need endoscopy
   .
   # HTN: Well controlled, continue home regimen
   .
   # Presumed depression/anxiety: Continue home citalopram and clonazepam
   doses.
   .
   # Diet: Cardiac/low salt/ Daibetic diet
   # PPx: SC heparin while not therapeutic on anticoag, bowel reg
   # Code: FULL
   # Contact/HCP: [**Name (NI) 8576**] [**Name (NI) 10770**] [**Telephone/Fax (1) 10771**]
   # Dispo: Back to medicine after improvement
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 10428**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3876**], MD
   on:[**2106-2-5**] 10:02 ------